US05728686
b) [1-(7-Benzyl-3-phenylxanthin-1-yl)methyl]dimethylphosphine oxide
The title substance was prepared from 6.5 g (0.02 mol) of 7-benzyl-3-phenylxanthine and 3.1 g (0.0245 mol) of chloromethyldimethylphosphine oxide analogously to Example 67.

reactant | 7-benzyl-3-phenylxanthine | 0.02 mol, 6.5 g | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C1=CC=CC=C1 | C18H14N4O2
reactant | chloromethyldimethylphosphine oxide | 0.0245 mol, 3.1 g | ClCP(C)(C)=O | C3H8ClOP
product | [1-(7-Benzyl-3-phenylxanthin-1-yl)methyl]dimethylphosphine oxide | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)CP(C)(C)=O)=O)C1=CC=CC=C1 | C21H21N4O3P
